US06747023B1
1-[(6-Chlorobenzo[b]thien-2-yl)sulfonyl]-4-[[6-(pyridin-4-yl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]piperazine hydrochloride
To a solution of 1-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]-4-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]piperazine (200 mg) in N,N-dimethylformamide (2.0 ml) were added 4-bromopyridine (87.0 mg) and triethylamine (150 μl) at room temperature. The resulting mixture was stirred under heat at 120° C. for 12 hours. After concentration of the reaction mixture, methylene chloride (20 ml), a saturated aqueous solution (50 ml) of sodium bicarbonate and water (50 ml) were added to the concentrate to separate it into layers. The water layer thus obtained was extracted with methylene chloride (4×20 ml). The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by preparative thin-layer chromatography (methylene chloride:methanol=20:1) using silica gel, followed by purification by preparative thin-layer chromatography (methylene chloride:acetone:methanol=15:5:1) using silica gel. The purified product was dissolved in methylene chloride, methanol and 1N hydrochloric acid. The resulting solution was concentrated under reduced pressure and dried, whereby the title compound (56.5 mg) was obtained as a pale yellow solid.

reactant | 1-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]-4-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]piperazine | 200 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CCN(CC2)C(=O)C=2SC=3CNCCC3N2)C1 | C19H19ClN4O3S3
reactant | 4-bromopyridine | 87.0 mg | BrC1=CC=NC=C1 | C5H4BrN
reactant | triethylamine | 150 μl | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[(6-Chlorobenzo[b]thien-2-yl)sulfonyl]-4-[[6-(pyridin-4-yl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]piperazine hydrochloride | 56.5 mg | Cl.ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CCN(CC2)C(=O)C=2SC=3CNC(CC3N2)C2=CC=NC=C2)C1 | InChI=1S/C24H22ClN5O3S3.ClH/c25-17-2-1-16-11-22(34-20(16)12-17)36(32,33)30-9-7-29(8-10-30)24(31)23-28-19-13-18(27-14-21(19)35-23)15-3-5-26-6-4-15;/h1-6,11-12,18,27H,7-10,13-14H2;1H
